* Single-diode negative clipper
* V1 vi  0 SIN(0 0.75 60) ; 10 Vpp, 1 kHz sine
V1 vi  0 PULSE(-1 1 0 20m 1u 1u 20m)
R1 vi vo 1k
C1 vo  0 1u IC=0
D1 vo  0 D1N914   ; diode to ground
D2  0 vo D1N914
D3  0 vo D1N914

* 1N914 diode model
.model D1N914 D (IS=2.52E-9 N=1.752)

.tran 0 80m 0 20.0u
.wav "vin.wav" 32 48k V(vi)
.wav "vout.wav" 32 48k V(vo)
.options plotwinsize=0
.backanno
.end
